US07517889B2
Under a nitrogen atmosphere, a 50 mL round bottom flask is charged with bis(pinacolato)diborane (1.16 g, 4.55 mmol), potassium acetate (1.11 g, 11.4 mmol) and 5-bromo-2-chloro-benzoic acid ethyl ester (1 g, 3.79 mmol). After bubbling nitrogen through the mixture for 5 minutes, dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium DCM adduct [PdCl2(dppf), 93 mg, 0.11 mmol] is added. The resulting mixture is heated to 60° C. for 2 hours, cooled to room temperature and poured into EtOAc (50 mL). This mixture is washed with water, with brine, dried over sodium sulfate, filtered and concentrated to give 2-chloro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid ethyl ester [LCMS: RT=5.1 minutes, MS: 311 (M+H)] and the dimerized side product, 4,3′-Dichloro-biphenyl-3,4′-dicarboxylic acid diethyl ester in 2:1 ratio (0.65 g total). The crude mixture is used for a next step without further purification.

reactant | bis(pinacolato)diborane | 4.55 mmol, 1.16 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 11.4 mmol, 1.11 g | C(C)(=O)[O-].[K+]
reactant | 5-bromo-2-chloro-benzoic acid ethyl ester | 3.79 mmol, 1 g | C(C)OC(C1=C(C=CC(=C1)Br)Cl)=O | C9H8BrClO2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium DCM | 0.11 mmol, 93 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 2-chloro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid ethyl ester | C(C)OC(C1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)=O | C15H20BClO4
